US07981874B2
Dimethyl {[({[4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]amino}carbonyl)oxy]methyl}phosphonate.
Chloromethyl [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]carbamate (0.96 g, 1.860 mmol) and trimethyl phosphite (1 ml, 8.48 mmol) were combined in a microwave vial. The vial was capped and the reaction was allowed to heat for 3.5 hours at 100° C. The reaction was cooled and diluted with dichloromethane. The residue was purified by column chromatography on silica gel eluting with EtOAc/hexane. MS: calc'd 490 (MH+-Boc), exp 490 (MH+-Boc).

reactant | Chloromethyl [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]carbamate | 1.860 mmol, 0.96 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(CNC(OCCl)=O)C=C1 | C25H26ClN3O5S
reactant | trimethyl phosphite | 8.48 mmol, 1 ml | P(OC)(OC)OC | C3H9O3P
solvent | dichloromethane | ClCCl | CH2Cl2
product | Dimethyl {[({[4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]amino}carbonyl)oxy]methyl}phosphonate | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(CNC(=O)OCP(OC)(OC)=O)C=C1 | C27H32N3O8PS
